US05866724
Into a 1 liter of four-necked flask were charged 1.90 g of para-toluene sulfonic acid, 24.43 g of 3,4-xylenol and 48.87 g of toluene. Further, keeping the temperature at 30° C., 7.61 g of 4-hydroxymethyl-2,5-dimethylphenol was added in ten portions over 1 hour. The mixture was stirred at the same temperature for 2 more hours. After completion of the reaction, 50 g of toluene and 50 g of ethyl acetate was added. Thereafter, 50 g of deionized water was added and the resulting mixture was stirred and a phase separation was carried out. Then, metal content was removed by adding 50 g of 1% aqueous oxalic acid solution, followed by stirring the mixture and by carrying out a phase separation. Thereafter, washing with 50 g of deionized water was repeated four times, and the oil phase was concentrated. To the concentrated mass, 100 g of toluene was added and the resulting solution was cooled to 20° C. and filtered. The filter cake was rinsed with 200 g of toluene and dissolved in 50 g of ethyl acetate. After adding 200 g of toluene thereto,the resulting mixture was concentrated. To the concentrated mass, 100 g of toluene was added and the resulting mass was cooled to 20° C. and filtered. The filter cake was rinsed with 100 g of toluene and dried a whole day and night under reduced pressure at 45 ° C. to obtain 8.82 g of 4-(2-hydroxy-4,5-dimethylbenzyl)-2,5-dimethylphenol.

reactant | para-toluene sulfonic acid | 1.90 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 3,4-xylenol | 24.43 g | C1(=CC(=C(C=C1)C)C)O | C8H10O
reactant | toluene | 48.87 g | C1(=CC=CC=C1)C | C7H8
reactant | 4-hydroxymethyl-2,5-dimethylphenol | 7.61 g | OCC1=CC(=C(C=C1C)O)C | C9H12O2
reactant | toluene | 50 g | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 g | O | H2O
solvent | ethyl acetate | 50 g | C(C)(=O)OCC | C4H8O2
product | 4-(2-hydroxy-4,5-dimethylbenzyl)-2,5-dimethylphenol | 8.82 g | OC1=C(CC2=CC(=C(C=C2C)O)C)C=C(C(=C1)C)C | C17H20O2
